### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix/Block, Analysis/Normed/Algebra/MatrixExponential): add BlockTriangular.pow and BlockTriangular.exp

### PR DESCRIPTION
**Pull request by hakii6**
These will help with proving  `det (exp A) = exp (trace A)`

Zulip thread: 
[#new members > (Matrix and NormedSpace.exp) | det (exp A) = exp (trace A)](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/.28Matrix.20and.20NormedSpace.2Eexp.29.20.7C.20det.20.28exp.20A.29.20.3D.20exp.20.28trace.20A.29/with/580964688)

---

# Summary
Add BlockTriangular.pow and BlockTriangular.exp for proving  "det (exp A) = exp (trace A)"

# Which part using LLM
The part I used LLM is for 
1. Searching duplicated theorems and lemmas I may missed (I already search them myself first).
2. Help me handle the "variables and signatures", the "letI" part, some of lemmas and theorems trivial but hard to find the true one.
3. After I finished, let them helped me check the structure match the disciplines of mathlib.
4. Check the steps PR match the disciplines of mathlib

Most things above are done by me first, then let them to make sure I'm not missing something.

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 1]
```diff
@@ -186,6 +186,18 @@ theorem BlockTriangular.mul [Fintype m] [NonUnitalNonAssocSemiring R]
   · simp_rw [hM hki, zero_mul]
   · simp_rw [hN (lt_of_lt_of_le hij hki), mul_zero]
 
+
+theorem BlockTriangular.pow [DecidableEq m] [Fintype m] [Semiring R]
+  (hM : BlockTriangular M b) (n : ℕ) :
```
Comment (wwylele) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]:
```suggestion
    (hM : BlockTriangular M b) (n : ℕ) :
```

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 2]
```diff
@@ -198,6 +198,24 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
   let ⟨u, hu⟩ := hy
   hu ▸ by simpa only [Matrix.coe_units_inv] using exp_units_conj' u A
 
+set_option backward.isDefEq.respectTransparency false in
+theorem BlockTriangular.exp {α : Type*} {M : Matrix m m 𝔸} {b : m → α} [LinearOrder α]
+  (hM : BlockTriangular M b) : (NormedSpace.exp M).BlockTriangular b := by
```
Comment (wwylele) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]:
```suggestion
    (hM : BlockTriangular M b) : (NormedSpace.exp M).BlockTriangular b := by
```

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 3]
```diff
@@ -198,6 +198,24 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
...
+  intro i j hji
+  letI : NormedRing (Matrix m m 𝔸) :=
+    Matrix.linftyOpNormedRing
+  letI : @NormedAlgebra ℚ (Matrix m m 𝔸) Rat.instNormedField Matrix.linftyOpSemiNormedRing :=
+    Matrix.linftyOpNormedAlgebra
```
Comment (wwylele) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]:
```suggestion
  letI : NormedRing (Matrix m m 𝔸) := Matrix.linftyOpNormedRing
  letI : NormedAlgebra ℚ (Matrix m m 𝔸) := Matrix.linftyOpNormedAlgebra
```

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 4]
```diff
@@ -198,6 +198,24 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
...
+  obtain ⟨a, ha⟩ := NormedSpace.expSeries_summable' (𝕂 := ℚ) M
+  have hzero : ∀ n : ℕ, (M ^ n) i j = 0 := fun n => (BlockTriangular.pow hM n) hji
+  have h1 := (continuous_apply i).continuousAt.tendsto.comp ha
+  have h2 := (continuous_apply j).continuousAt.tendsto.comp h1
+  simp at h2
```
Comment (wwylele) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: In general you need to squeeze non-termimal simp, but here you actually don't need this line

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 5]
```diff
@@ -198,6 +198,24 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
...
+  rw [← ((congr_fun NormedSpace.exp_eq_tsum_rat M).trans ha.tsum_eq).symm]
```
Comment (wwylele) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]:
```suggestion
  rw [(congr_fun NormedSpace.exp_eq_tsum_rat M).trans ha.tsum_eq]
```

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 6]
```diff
@@ -198,6 +198,24 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
...
+set_option backward.isDefEq.respectTransparency false in
+theorem BlockTriangular.exp {α : Type*} {M : Matrix m m 𝔸} {b : m → α} [LinearOrder α]
+  (hM : BlockTriangular M b) : (NormedSpace.exp M).BlockTriangular b := by
+  intro i j hji
+  letI : NormedRing (Matrix m m 𝔸) :=
+    Matrix.linftyOpNormedRing
+  letI : @NormedAlgebra ℚ (Matrix m m 𝔸) Rat.instNormedField Matrix.linftyOpSemiNormedRing :=
+    Matrix.linftyOpNormedAlgebra
+  obtain ⟨a, ha⟩ := NormedSpace.expSeries_summable' (𝕂 := ℚ) M
+  have hzero : ∀ n : ℕ, (M ^ n) i j = 0 := fun n => (BlockTriangular.pow hM n) hji
```
Comment (wwylele) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]:
```suggestion
  have hzero : ∀ n : ℕ, (M ^ n) i j = 0 := fun n ↦ (BlockTriangular.pow hM n) hji
```

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 7]
```diff
@@ -198,6 +198,24 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
...
+  have h1 := (continuous_apply i).continuousAt.tendsto.comp ha
+  have h2 := (continuous_apply j).continuousAt.tendsto.comp h1
+  simp at h2
+  rw [← ((congr_fun NormedSpace.exp_eq_tsum_rat M).trans ha.tsum_eq).symm]
+  exact tendsto_nhds_unique  (h2.congr (fun s => by
```
Comment (wwylele) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]:
```suggestion
  exact tendsto_nhds_unique (h2.congr (fun s ↦ by
```

**Review by wwylele — COMMENTED** [review]
Some code style comments

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 8]
```diff
@@ -186,6 +186,18 @@ theorem BlockTriangular.mul [Fintype m] [NonUnitalNonAssocSemiring R]
   · simp_rw [hM hki, zero_mul]
   · simp_rw [hN (lt_of_lt_of_le hij hki), mul_zero]
 
+
+theorem BlockTriangular.pow [DecidableEq m] [Fintype m] [Semiring R]
+    (hM : BlockTriangular M b) (n : ℕ) :
+    BlockTriangular (M ^ n) b := by
```
Comment (SnirBroshi) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]:
```suggestion
theorem BlockTriangular.pow [DecidableEq m] [Fintype m] [Semiring R] (hM : BlockTriangular M b)
    (n : ℕ) : BlockTriangular (M ^ n) b := by
```

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 9]
```diff
@@ -186,6 +186,18 @@ theorem BlockTriangular.mul [Fintype m] [NonUnitalNonAssocSemiring R]
...
+  induction n with
+  | zero => simp [blockTriangular_one]
+  | succ n ih =>
+    rw [pow_succ]
+    exact ih.mul hM
+
+
+
 end LinearOrder
```
Comment (SnirBroshi) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]:
```suggestion
    exact ih.mul hM

end LinearOrder
```

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 10]
```diff
@@ -198,6 +198,21 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
...
   hu ▸ by simpa only [Matrix.coe_units_inv] using exp_units_conj' u A
 
+set_option backward.isDefEq.respectTransparency false in
+theorem BlockTriangular.exp {α : Type*} {M : Matrix m m 𝔸} {b : m → α} [LinearOrder α]
+    (hM : BlockTriangular M b) : (NormedSpace.exp M).BlockTriangular b := by
+  intro i j hji
+  letI : NormedRing (Matrix m m 𝔸) := Matrix.linftyOpNormedRing
+  letI : NormedAlgebra ℚ (Matrix m m 𝔸) := Matrix.linftyOpNormedAlgebra
+  obtain ⟨a, ha⟩ := NormedSpace.expSeries_summable' (𝕂 := ℚ) M
+  have hzero : ∀ n : ℕ, (M ^ n) i j = 0 := fun n ↦ (BlockTriangular.pow hM n) hji
```
Comment (SnirBroshi) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]:
```suggestion
  have ⟨a, ha⟩ := NormedSpace.expSeries_summable' (𝕂 := ℚ) M
  have hzero (n : ℕ) : (M ^ n) i j = 0 := BlockTriangular.pow hM n hji
```

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 11]
```diff
@@ -198,6 +198,21 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
...
+  have h1 := (continuous_apply i).continuousAt.tendsto.comp ha
+  have h2 := (continuous_apply j).continuousAt.tendsto.comp h1
+  rw [(congr_fun NormedSpace.exp_eq_tsum_rat M).trans ha.tsum_eq]
```
Comment (SnirBroshi) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]:
```suggestion
  rw [congr_fun NormedSpace.exp_eq_tsum_rat M, ha.tsum_eq]
```

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 12]
```diff
@@ -198,6 +198,21 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
...
+  exact tendsto_nhds_unique (h2.congr (fun s ↦ by
+    simp [Function.comp, Matrix.sum_apply, smul_apply, hzero]
+  )) tendsto_const_nhds
```
Comment (SnirBroshi) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]:
```suggestion
  refine tendsto_nhds_unique (h2.congr fun s ↦ ?_) tendsto_const_nhds
  simp [Function.comp, Matrix.sum_apply, smul_apply, hzero]
```

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean (hunk 11 above)
Comment (hakii6) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: After applied this code, the code broke in my local enviroment.
Do you mean something else or what thing I missed?

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 13]
```diff
@@ -186,6 +186,14 @@ theorem BlockTriangular.mul [Fintype m] [NonUnitalNonAssocSemiring R]
   · simp_rw [hM hki, zero_mul]
   · simp_rw [hN (lt_of_lt_of_le hij hki), mul_zero]
 
+theorem BlockTriangular.pow [DecidableEq m] [Fintype m] [Semiring R] (hM : BlockTriangular M b)
+    (n : ℕ) : BlockTriangular (M ^ n) b := by
+  induction n with
+  | zero => simp [blockTriangular_one]
+  | succ n ih =>
+    rw [pow_succ]
+    exact ih.mul hM
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]: Here's a slightly slicker proof:
```suggestion
variable (b) in
/-- `BlockTriangular` matrices form a semiring. -/
@[simps]
def blockTriangularSubsemiring [DecidableEq m] [Fintype m] [Semiring R] : Subsemiring (Matrix m m R) where
  carrier := {M | BlockTriangular M b}
  zero_mem' := blockTriangular_zero
  one_mem' := blockTriangular_one
  mul_mem' := .mul
  add_mem' := .add

theorem BlockTriangular.pow [DecidableEq m] [Fintype m] [Semiring R] (hM : BlockTriangular M b)
    (n : ℕ) : BlockTriangular (M ^ n) b :=
  pow_mem (S := blockTriangularSubsemiring b) hM n
```
You could use this to define `.prod` in one line too.

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 14]
```diff
@@ -198,6 +198,20 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
...
+  letI : NormedRing (Matrix m m 𝔸) := Matrix.linftyOpNormedRing
+  letI : NormedAlgebra ℚ (Matrix m m 𝔸) := Matrix.linftyOpNormedAlgebra
+  have ⟨a, ha⟩ := NormedSpace.expSeries_summable' (𝕂 := ℚ) M
+  have hzero (n : ℕ) : (M ^ n) i j = 0 := BlockTriangular.pow hM n hji
+  have h1 := (continuous_apply i).continuousAt.tendsto.comp ha
+  have h2 := (continuous_apply j).continuousAt.tendsto.comp h1
+  rw [(congr_fun NormedSpace.exp_eq_tsum_rat M).trans ha.tsum_eq]
+  refine tendsto_nhds_unique (h2.congr fun s ↦ ?_) tendsto_const_nhds
+  simp [Function.comp, Matrix.sum_apply, smul_apply, hzero]
+
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: I think there's a more general proof here that goes via my suggestion in [#Is there code for X? > tsum_mem @ 💬](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/tsum_mem/near/581233901).

Could you in the meantime prove that the set of block triangular matrices is topologically closed?

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: #37069 adds the other missing piece to combine with that IsClosed result.

Comment (hakii6) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: Thanks!
I use  #37069 and it seems work.
Will update the code to the method you suggested!

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: don't forget to push the change!

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 15]
```diff
@@ -186,6 +186,21 @@ theorem BlockTriangular.mul [Fintype m] [NonUnitalNonAssocSemiring R]
   · simp_rw [hM hki, zero_mul]
   · simp_rw [hN (lt_of_lt_of_le hij hki), mul_zero]
 
+variable (b) in
+/-- `BlockTriangular` matrices form a semiring. -/
+@[simps]
+def blockTriangularSubsemiring [DecidableEq m] [Fintype m] [Semiring R] :
+    Subsemiring (Matrix m m R) where
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Block.lean:193]: I guess with the latest change you'll want to additionally define `blockTriangularSubalgebra : SubAlgebra R (Matrix m m A)` using `BlockTriangular.smul`

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean (hunk 14 above)
Comment (hakii6) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: Oh, I'm checking it work in my local env first.

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 16]
```diff
@@ -198,6 +198,23 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
   let ⟨u, hu⟩ := hy
   hu ▸ by simpa only [Matrix.coe_units_inv] using exp_units_conj' u A
 
+set_option backward.isDefEq.respectTransparency false in
+omit [CompleteSpace 𝔸] in
+theorem BlockTriangular.exp {α : Type*} {M : Matrix m m 𝔸} {b : m → α} [LinearOrder α]
+    (hM : BlockTriangular M b) : (NormedSpace.exp M).BlockTriangular b := by
+  letI : NormedRing (Matrix m m 𝔸) := Matrix.linftyOpNormedRing
+  letI : NormedAlgebra ℚ (Matrix m m 𝔸) := Matrix.linftyOpNormedAlgebra
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: Do you still need these?

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 17]
```diff
@@ -198,6 +198,23 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
...
+  have hclosed : IsClosed (↑(blockTriangularSubsemiring (R := 𝔸) b) : Set (Matrix m m 𝔸)) := by
+    simp only [coe_blockTriangularSubsemiring, BlockTriangular, Set.setOf_forall]
+    apply isClosed_iInter; intro i
+    apply isClosed_iInter; intro j
+    apply isClosed_iInter; intro _
+    exact isClosed_eq (continuous_id.matrix_elem i j) continuous_const
+  rw [exp_eq_tsum ℚ]
+  apply tsum_mem hclosed
+  intro i j k h
+  rw [smul_apply, (hM.pow i) h, smul_zero]
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: You should be able to use `NormedSpace.exp_mem` here instead

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 18]
```diff
@@ -198,6 +198,23 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
...
+theorem BlockTriangular.exp {α : Type*} {M : Matrix m m 𝔸} {b : m → α} [LinearOrder α]
+    (hM : BlockTriangular M b) : (NormedSpace.exp M).BlockTriangular b := by
+  letI : NormedRing (Matrix m m 𝔸) := Matrix.linftyOpNormedRing
+  letI : NormedAlgebra ℚ (Matrix m m 𝔸) := Matrix.linftyOpNormedAlgebra
+  have hclosed : IsClosed (↑(blockTriangularSubsemiring (R := 𝔸) b) : Set (Matrix m m 𝔸)) := by
+    simp only [coe_blockTriangularSubsemiring, BlockTriangular, Set.setOf_forall]
+    apply isClosed_iInter; intro i
+    apply isClosed_iInter; intro j
+    apply isClosed_iInter; intro _
+    exact isClosed_eq (continuous_id.matrix_elem i j) continuous_const
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: Please state this as a standalone theorem, 
```suggestion
  theorem isClosed_setOf_blockTriangular : IsClosed {M : Matrix m m 𝔸 | M.BlockTriangular b) := by
    simp only [BlockTriangular, Set.setOf_forall]
    apply isClosed_iInter; intro i
    apply isClosed_iInter; intro j
    apply isClosed_iInter; intro _
    exact isClosed_eq (continuous_id.matrix_elem i j) continuous_const
```
which I would guess you can put in an earlier file.

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean (hunk 16 above)
Comment (hakii6) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: No, this is the code before I saw your comment about SubAlgebra, so I'm updating.

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 19]
```diff
@@ -186,6 +186,34 @@ theorem BlockTriangular.mul [Fintype m] [NonUnitalNonAssocSemiring R]
...
+  one_mem' := blockTriangular_one
+  mul_mem' := .mul
+  add_mem' := .add
+
+variable (b) in
+/-- `BlockTriangular` matrices form a subalgebra. -/
+def blockTriangularSubalgebra {A : Type*} [CommSemiring A] [Semiring R] [Algebra A R]
+    [DecidableEq m] [Fintype m] : Subalgebra A (Matrix m m R) :=
+  { blockTriangularSubsemiring b with
+    algebraMap_mem' _ := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]: This should be a theorem by itself

File: Mathlib/LinearAlgebra/Matrix/Block.lean (hunk 15 above)
Comment (hakii6) [reply Mathlib/LinearAlgebra/Matrix/Block.lean:193]: Since, there is no BlockTriangular.smul or something similar, I proved one in my local env,
but it turned out I can't use it to prove the Subalgebra (tried many ways, but none of them worked, I think it may because I'm not familiar enough with the mathlib signature).

So I use the original working version (which I wrote before saw this comment).
Since none of the stuff use it, the BlockTriangular.smul is not put in this PR, but it may still be push with another PR (if needed).

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 20]
```diff
@@ -171,6 +171,14 @@ end Normed
 
 section NormedComm
 
+theorem isClosed_setOf_blockTriangular {α : Type*} {b : m → α} [LinearOrder α] [NormedCommRing 𝔸] :
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: Are you sure this need NormedCommRing? I think a topological space with zero might suffice.

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean (hunk 17 above)
Comment (hakii6) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: I tried to use the exp_mem, but it required some additional signature, so maybe I should remain the original way?

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 21]
```diff
@@ -186,6 +186,36 @@ theorem BlockTriangular.mul [Fintype m] [NonUnitalNonAssocSemiring R]
...
+  intro i j h
+  rw [algebraMap_matrix_apply, ite_eq_right_iff]
+  intro hij
+  rw [hij] at h
+  simp only [lt_self_iff_false] at h
+
+variable (b) in
+/-- `BlockTriangular` matrices form a subalgebra. -/
+def blockTriangularSubalgebra {A : Type*} [CommSemiring A] [Semiring R] [Algebra A R]
+    [DecidableEq m] [Fintype m] : Subalgebra A (Matrix m m R) :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]:
```suggestion
def blockTriangularSubalgebra {A : Type*} [CommSemiring R] [Semiring A] [Algebra R A]
    [DecidableEq m] [Fintype m] : Subalgebra R (Matrix m m A) :=
```

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Block.lean]: (and above)

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 22]
```diff
@@ -186,6 +186,36 @@ theorem BlockTriangular.mul [Fintype m] [NonUnitalNonAssocSemiring R]
...
+  one_mem' := blockTriangular_one
+  mul_mem' := .mul
+  add_mem' := .add
+theorem blockTriangular_algebraMap {A : Type*} [CommSemiring A] [Semiring R] [Algebra A R]
+    [DecidableEq m] [Fintype m] (r : A) : (algebraMap A (Matrix m m R) r).BlockTriangular b := by
+  intro i j h
+  rw [algebraMap_matrix_apply, ite_eq_right_iff]
+  intro hij
+  rw [hij] at h
+  simp only [lt_self_iff_false] at h
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]:
```suggestion
    [DecidableEq m] [Fintype m] (r : A) : (algebraMap A (Matrix m m R) r).BlockTriangular b :=
  blockTriangular_diagonal _ _
```

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 23]
```diff
@@ -171,6 +171,14 @@ end Normed
 
 section NormedComm
 
+theorem isClosed_setOf_blockTriangular {α : Type*} {b : m → α} [LinearOrder α] [Zero 𝔸]
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: This no longer belongs in this section; can you move it to a a better section higher up the file?

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean (hunk 17 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: What do you mean by "additional signature"? You should be able to instantiate it with `blockTriangularSubalgebra ℚ`

File: Mathlib/LinearAlgebra/Matrix/Block.lean (hunk 22 above)
Comment (hakii6) [reply Mathlib/LinearAlgebra/Matrix/Block.lean]: This isn't working in my local env, so I didn't change here.

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean (hunk 17 above)
Comment (hakii6) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: I don't know why, but I can't make it work with your method.
Maybe there is something I missed, I'll try again later.

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 24]
```diff
@@ -73,6 +73,14 @@ namespace Matrix
 
 section Topological
 
+theorem isClosed_setOf_blockTriangular {α : Type*} {b : m → α} [LinearOrder α] [Zero 𝔸]
+    [TopologicalSpace 𝔸] [T2Space 𝔸] : IsClosed {M : Matrix m m 𝔸 | M.BlockTriangular b} := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: Can you move this to `Mathlib/Topology/Instances/Matrix.lean` instead?

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 25]
```diff
@@ -73,6 +73,14 @@ namespace Matrix
...
+  simp only [BlockTriangular, Set.setOf_forall]
+  apply isClosed_iInter; intro i
+  apply isClosed_iInter; intro j
+  apply isClosed_iInter; intro _
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: I think better as
```suggestion
  refine isClosed_iInter fun i => isClosed_iInter fun j => isClosed_iInter fun _ => ?_
```

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 26]
```diff
@@ -186,6 +186,37 @@ theorem BlockTriangular.mul [Fintype m] [NonUnitalNonAssocSemiring R]
...
+
+variable (b) in
+/-- `BlockTriangular` matrices form a subalgebra. -/
+def blockTriangularSubalgebra {A : Type*} [CommSemiring R] [Semiring A] [Algebra R A]
+    [DecidableEq m] [Fintype m] : Subalgebra R (Matrix m m A) :=
+  { blockTriangularSubsemiring b with
+    algebraMap_mem' r := blockTriangular_algebraMap r
+  }
+
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]:
```suggestion
    [DecidableEq m] [Fintype m] : Subalgebra R (Matrix m m A) where
  __ := blockTriangularSubsemiring b
  algebraMap_mem' r := blockTriangular_algebraMap r
```

File: Mathlib/LinearAlgebra/Matrix/Block.lean (hunk 22 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Block.lean]: Please try to get this proof to work; maybe I have too many or too few `_`s.

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean (hunk 24 above)
Comment (hakii6) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: Sure, but, seems a little strange in there?
Should I put below the IsCompact?
Or bottom of BlockMatrix?
Or should I open a section for BlockTriangular?

File: Mathlib/LinearAlgebra/Matrix/Block.lean (hunk 22 above)
Comment (hakii6) [reply Mathlib/LinearAlgebra/Matrix/Block.lean]: It works, but I need to modify some of the signature though it seem still the same...?

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean (hunk 24 above)
Comment (hakii6) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: I think I choose a just work enough position.

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean (hunk 17 above)
Comment (hakii6) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: I think I make it works!

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 27]
```diff
@@ -198,6 +199,12 @@ theorem exp_conj' (U : Matrix m m 𝔸) (A : Matrix m m 𝔸) (hy : IsUnit U) :
   let ⟨u, hu⟩ := hy
   hu ▸ by simpa only [Matrix.coe_units_inv] using exp_units_conj' u A
 
+set_option backward.isDefEq.respectTransparency false in
+omit [CompleteSpace 𝔸] in
+theorem BlockTriangular.exp {α : Type*} {M : Matrix m m 𝔸} {b : m → α} [LinearOrder α]
+    (hM : BlockTriangular M b) : (NormedSpace.exp M).BlockTriangular b := NormedSpace.exp_mem
+    (s := blockTriangularSubalgebra (R := ℚ) b) isClosed_setOf_blockTriangular hM
+
 end NormedComm
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: Are you sure this needs to be in this `NormedComm` section? I don't think you use the norm structure at all any more.

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 28]
```diff
@@ -186,6 +186,32 @@ theorem BlockTriangular.mul [Fintype m] [NonUnitalNonAssocSemiring R]
...
+  mul_mem' := .mul
+  add_mem' := .add
+
+theorem blockTriangular_algebraMap {A : Type*} [CommSemiring R] [Semiring A] [Algebra R A]
+    [DecidableEq m] [Fintype m] (r : R) : (algebraMap R (Matrix m m A) r).BlockTriangular b :=
+  blockTriangular_diagonal _
+
+variable (b) in
+/-- `BlockTriangular` matrices form a subalgebra. -/
+def blockTriangularSubalgebra {A : Type*} [CommSemiring R] [Semiring A] [Algebra R A]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]: Can you add the `simp` theorem about membership in this subalgebra, and same for the subsemiring above?

Comment (hakii6) [reply Mathlib/LinearAlgebra/Matrix/Block.lean]: Are these two theorems what you mean? Or there is more? I'm not sure.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Block.lean]: Yes, these look good; but try to put each theorem immediately after its definition.

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 29]
```diff
@@ -118,6 +120,11 @@ set_option backward.isDefEq.respectTransparency false in
 theorem IsSymm.exp {A : Matrix m m 𝔸} (h : A.IsSymm) : (exp A).IsSymm :=
   (exp_transpose _).symm.trans <| congr_arg _ h
 
+set_option backward.isDefEq.respectTransparency false in
+theorem BlockTriangular.exp {α : Type*} {M : Matrix m m 𝔸} {b : m → α} [LinearOrder α]
+    (hM : BlockTriangular M b) : (NormedSpace.exp M).BlockTriangular b := NormedSpace.exp_mem
+    (s := blockTriangularSubalgebra (R := ℚ) b) isClosed_setOf_blockTriangular hM
+
 end CommRing
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean:121]: Does this result really need the ring to be commutative?

Generally, I'd encourage you to keep trying to weaken assumptions until you can no longer do so, rather than me suggesting a single generalization at a time in review.

File: Mathlib/Topology/Instances/Matrix.lean [hunk 30]
```diff
@@ -68,6 +69,7 @@ theorem IsCompact.matrix [TopologicalSpace R] {S : Set R} (hS : IsCompact S) :
     IsCompact (S.matrix : Set (Matrix m n R)) :=
   isCompact_pi_infinite fun _ => isCompact_pi_infinite fun _ => hS
 
+
```
Comment (eric-wieser) [inline Mathlib/Topology/Instances/Matrix.lean]: Please don't add blank lines in unrelated code.

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean (hunk 29 above)
Comment (hakii6) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean:121]: Sorry...
I'm trying to be more familiar with mathlib's style, it's quite different from my experience.

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 31]
```diff
@@ -73,6 +74,12 @@ namespace Matrix
 
 section Topological
 
+set_option backward.isDefEq.respectTransparency false in
+theorem BlockTriangular.exp {α : Type*} {M : Matrix m m 𝔸} {b : m → α} [LinearOrder α] [Ring 𝔸]
+    [TopologicalSpace 𝔸] [Algebra ℚ 𝔸] [Fintype m] [DecidableEq m] [IsTopologicalRing 𝔸] [T2Space 𝔸]
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: Are you sure you need the `Algebra ℚ 𝔸` argument here? I think you should be able to case split, since in cases where there is no algebra instance, `exp M` is zero which is also block triangular.

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean (hunk 29 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean:121]: Yes, it's indeed surprising if you're not familiar with it. Thanks for starting with a small PR so that it's not too hard for me to catch everything!

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean (hunk 31 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: (You should be able to find some examples which case split on `Nonempty (Algebra ℚ 𝔸)`)

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: Ah, this is more complex than I thought, so feel free to ignore.

Comment (hakii6) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: I try different combinations, like something even "mpty (Algebra " to match those possible result,
the only matched result is the 
```
noncomputable irreducible_def exp (x : 𝔸) : 𝔸 :=
  if h : Nonempty (Algebra ℚ 𝔸) then
    letI _ := h.some
    (NormedSpace.expSeries ℚ 𝔸).sum x
  else
    1
```
in [Normed/Algebra/Exponential](https://github.com/leanprover-community/mathlib4/commit/ef121e5d64e2abd0c437e4fc8594a18aad0fd133)

So, there are two options for the else branch of `h : Nonempty (Algebra ℚ 𝔸)` 
1. `NormedSpace.exp M = 0`
I tried many way, but I can't find one to get the "0" as junk value
Maybe there is something I missed, though I have tried many keywords to search and skim through the exp file many time, but never find it.

2. `NormedSpace.exp M = 1`
It became something like this
`∑' (n : ℕ), (↑n.factorial)⁻¹ • M ^ n = 1`
which... I think it's not true even with the junk value system in lean4...?
Of course I tried, but failed again

---

Could you tell me which one is the true branch (1 or 0)?
Since this is a Mathlib-specific implementation, I couldn't resolve it via a general search.
Thanks for your help!

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: Apologies, I meant 1, and the missing lemma is in #37292. But I think this is still out of scope for this PR.

Comment (hakii6) [reply Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: I wonder, is this make sense without Algebra structure?
I mean, if this is not making sense, doesn't it mean we hide a caveat here for someone using mathlib accidentally prove something but actually use some undefined math? Or theorems in mathlib are more about prototype and not about full complete theorems (I mean, more like a framework to use rather than something like those product-level app to treat as black-box)?
Or, the problem is actually the proof I use is not general enough, if so, could you suggest some proof, I'm really curious and glad to learn?

And I saw the PR is merged, maybe, maybe I can try, how do you think?

I'm just curious, but maybe this is some impolite question, but I can't make sure it's really not impolite or not since I'm not really a English user, sorry for disturbing you more.

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 32]
```diff
@@ -10,8 +10,9 @@ public import Mathlib.Analysis.Matrix.Normed
 public import Mathlib.LinearAlgebra.Matrix.ZPow
 public import Mathlib.LinearAlgebra.Matrix.Hermitian
 public import Mathlib.LinearAlgebra.Matrix.Symmetric
+public import Mathlib.LinearAlgebra.Matrix.Block
 public import Mathlib.Topology.UniformSpace.Matrix
-
+public import Mathlib.Topology.Instances.Matrix
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean:15]:
```suggestion
public import Mathlib.Topology.Instances.Matrix

```

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 33]
```diff
@@ -186,6 +186,45 @@ theorem BlockTriangular.mul [Fintype m] [NonUnitalNonAssocSemiring R]
...
+  carrier := {M | BlockTriangular M b}
+  zero_mem' := blockTriangular_zero
+  one_mem' := blockTriangular_one
+  mul_mem' := .mul
+  add_mem' := .add
+
+theorem blockTriangular_algebraMap {A : Type*} [CommSemiring R] [Semiring A] [Algebra R A]
+    [DecidableEq m] [Fintype m] (r : R) : (algebraMap R (Matrix m m A) r).BlockTriangular b :=
+  blockTriangular_diagonal _
+
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Block.lean:213]:
```suggestion
```

File: Mathlib/Topology/Instances/Matrix.lean [hunk 34]
```diff
@@ -300,6 +301,12 @@ theorem Continuous.matrix_blockDiag'
     Continuous fun x => blockDiag' (A x) :=
   continuous_pi fun _i => continuous_matrix fun _j _k => hA.matrix_elem _ _
 
+theorem isClosed_setOf_blockTriangular {α : Type*} {b : m → α} [LinearOrder α] [Zero R] [T2Space R]
+    : IsClosed {M : Matrix m m R | M.BlockTriangular b} := by
```
Comment (themathqueen) [inline Mathlib/Topology/Instances/Matrix.lean]:
```suggestion
theorem isClosed_setOf_blockTriangular {α : Type*} {b : m → α} [LinearOrder α] [Zero R]
    [T2Space R] : IsClosed {M : Matrix m m R | M.BlockTriangular b} := by
```

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 35]
```diff
@@ -186,6 +186,45 @@ theorem BlockTriangular.mul [Fintype m] [NonUnitalNonAssocSemiring R]
   · simp_rw [hM hki, zero_mul]
   · simp_rw [hN (lt_of_lt_of_le hij hki), mul_zero]
 
+variable (b) in
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]: I think `R` should be explicit too
```suggestion
variable (R b) in
```

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 36]
```diff
@@ -186,6 +186,45 @@ theorem BlockTriangular.mul [Fintype m] [NonUnitalNonAssocSemiring R]
...
+def blockTriangularSubalgebra {A : Type*} [CommSemiring R] [Semiring A] [Algebra R A]
+    [DecidableEq m] [Fintype m] : Subalgebra R (Matrix m m A) where
+  __ := blockTriangularSubsemiring b
+  algebraMap_mem' r := blockTriangular_algebraMap r
+
+@[simp]
+theorem mem_blockTriangularSubsemiring [DecidableEq m] [Fintype m] [Semiring R]
+    {M : Matrix m m R} :
+    M ∈ blockTriangularSubsemiring b ↔ BlockTriangular M b :=
+  Iff.rfl
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]: move this up, right after the `blockTriangularSubsemiring` definition

File: Mathlib/LinearAlgebra/Matrix/Block.lean (hunk 33 above)
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Block.lean:213]:
```suggestion
```

File: Mathlib/LinearAlgebra/Matrix/Block.lean (hunk 36 above)
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]: Please put this lemma immediately after `blockTriangularSubsemiring`

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 37]
```diff
@@ -73,6 +75,12 @@ namespace Matrix
 
 section Topological
 
+set_option backward.isDefEq.respectTransparency false in
+theorem BlockTriangular.exp {α : Type*} {M : Matrix m m 𝔸} {b : m → α} [LinearOrder α] [Ring 𝔸]
+    [TopologicalSpace 𝔸] [Algebra ℚ 𝔸] [Fintype m] [DecidableEq m] [IsTopologicalRing 𝔸] [T2Space 𝔸]
+    (hM : BlockTriangular M b) : (NormedSpace.exp M).BlockTriangular b := NormedSpace.exp_mem
+    (s := blockTriangularSubalgebra (R := ℚ) b) isClosed_setOf_blockTriangular hM
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: nit:
```suggestion
    (hM : BlockTriangular M b) : (NormedSpace.exp M).BlockTriangular b :=
  NormedSpace.exp_mem
    (s := blockTriangularSubalgebra (R := ℚ) b) isClosed_setOf_blockTriangular hM
```

File: Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean [hunk 38]
```diff
@@ -73,6 +75,12 @@ namespace Matrix
 
 section Topological
 
+set_option backward.isDefEq.respectTransparency false in
+theorem BlockTriangular.exp {α : Type*} {M : Matrix m m 𝔸} {b : m → α} [LinearOrder α] [Ring 𝔸]
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Algebra/MatrixExponential.lean]: Can this now move into the `Ring` section below?

File: Mathlib/LinearAlgebra/Matrix/Block.lean (hunk 35 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Block.lean]: I pushed a commit that applies this.

**Comment by eric-wieser** [comment]
bors merge

Thanks!

I took the liberty of making the final stylistic corrections myself; please take a look at the commits I pushed to learn what we're expecting from `variable`s in future.
